Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
right lower extremity weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old F w/ PMH of HTN, HLD, CKD Stage III, and
lumbar disc disease who presents with acute onset of RLE 
weakness
and inguinal pain.

Pt reports she was standing in her home this evening talking 
with
daughter and her friends when she started to feel like she was
falling backwards. She quickly regained her balance but again
felt like she was falling backwards and then her "legs gave out"
with subsequent fall to ground. She was helped by family up to
chair and on repeat attempts to stand felt her legs becoming
wobbly and had to sit down. Reports that she had NBNB emesis
immediately prior to event and following as well. Pt realized 
she
couldn't move her RLE without subsequent pain in R thigh,
described as severe, sharp and throbbing. Associated "pins and
needles" in her knee radiating down to dorsum of foot. Endorses
some aching lower back pain as well, although admits this is a
chronic issue related to lumbar DJD. Due to these sx, pt's 
family
called ___ and EMS brought pt to ED.

Upon arrival to ED, pt noted parasthesias in RLE to improve and
be replaced by numbness. Denies f/c, headache, lightheadedness,
visual changes, or other focal neurologic deficits except those
noted. No noted saddle anesthesia or subsequent bowel/bladder
incontinence or retention. 

Of note, pt described previous issues with gait imbalance w/
intermittent falls for which she received physical therapy last
year. Denies use of cane or walker. In terms of her lumbar disc
disease, pt was dx with lumbar foraminal stenosis based on MRI
findings particularly at L4-L5. She underwent LESI with relief.  


Neuro/General ROS negative except as noted above 

 
Past Medical History:
HTN
HLD
Impaired Glucose Tolerance (IGT)
Lumbar stenosis
CKD III
Anemia
Depression/Anxiety

 
Social History:
___
Family History:
M-HTN, Colon CA, DM, CKD
___, PVD
Aunt-CVA
 
Physical ___:
General: Awake, cooperative, NAD, obese female.
HEENT: NC/AT, MMM
Neck: Supple
Pulmonary: no inc WOB
Cardiac: no pedal edema
Abdomen: soft, NT, ND
Extremities: no swelling or deformity 
Skin: no rashes or lesions noted.

Neurologic:
Mental Status: Alert, oriented x 3. Speech fluent, no 
dysarthria.
Cranial Nerves: PERRL 3 to 2mm, brisk. EOM full, no nystagmus.
face symmetric, tongue midline. Intact to light touch V1-V3

Motor: Normal bulk, tone throughout. No pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bi  Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  4*  5-*  4* 5     5     5   
*Severely effort dependent
+ Hoover's manuever
Sensory: Intact to light touch throughout. No extinction to DSS.

DTRs:
  Bi Tri ___ Pat 
L  2+ 2+   2+   2+   
R  2+ 2+   2+   2+
   Toes upgoing bilaterally.

Coordination: No intention tremor. 
Gait: Deferred.  

 
Pertinent Results:
___ 07:00PM   GLUCOSE-127* UREA N-19 CREAT-1.5* SODIUM-140 
POTASSIUM-4.6 CHLORIDE-104 TOTAL CO2-22 ANION GAP-19
___ 07:00PM   CK(CPK)-163
___ 07:00PM   CK-MB-1
___ 07:00PM   TOT PROT-6.8 CALCIUM-9.3 PHOSPHATE-3.3 
MAGNESIUM-1.9
___ 07:00PM   %HbA1c-5.7 eAG-117
___ 07:00PM   CRP-1.2
___ 07:00PM   WBC-8.0 RBC-3.69* HGB-11.5 HCT-35.8 MCV-97 
MCH-31.2 MCHC-32.1 RDW-13.6 RDWSD-48.6*
___ 07:00PM   PLT COUNT-173
___ 04:58AM   LACTATE-1.2
___ 11:21PM   GLUCOSE-125* UREA N-21* CREAT-1.7* SODIUM-137 
POTASSIUM-6.2* CHLORIDE-103 TOTAL CO2-19* ANION GAP-21*
___ 11:21PM   ALT(SGPT)-17 AST(SGOT)-39 CK(CPK)-135 ALK 
PHOS-54 TOT BILI-0.3
___ 11:21PM   LIPASE-49
___ 11:21PM   cTropnT-<0.01
___ 11:21PM   ALBUMIN-4.0 CALCIUM-9.2 PHOSPHATE-3.1 
MAGNESIUM-1.8
___ 11:21PM   ASA-NEG ETHANOL-17* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:21PM   K+-5.3*
___ 11:21PM   WBC-6.9 RBC-3.66* HGB-11.8 HCT-35.5 MCV-97 
MCH-32.2* MCHC-33.2 RDW-13.7 RDWSD-49.0*
___ 11:21PM   NEUTS-64.5 ___ MONOS-8.4 EOS-1.9 
BASOS-0.7 IM ___ AbsNeut-4.48# AbsLymp-1.67 AbsMono-0.58 
AbsEos-0.13 AbsBaso-0.05
___ 11:21PM   PLT COUNT-183
___ 11:21PM   ___ PTT-25.9 ___

Imaging:
MRI Lumbar Spine ___
IMPRESSION:  Multilevel mild degenerative changes are seen with 
disc bulging at L4-5 and L5-S1 levels with mild to moderate 
foraminal narrowing as described.  There is no evidence of 
spinal stenosis or high-grade thecal sac compression. 

CTA Abd/Pelvis ___
IMPRESSION: 1. Minimal calcified atherosclerotic disease within 
the abdominal aorta.  Widely patent lower extremity vessels 
bilaterally.  Three-vessel runoff into the left foot. 
2. 2 vessel runoff into the right foot.  The peroneal artery is 
seen to the level of the distal calf, after which is not well 
seen.  This may be due to splitting into smaller caliber vessels 
rather than atherosclerotic disease or occlusion. 
3. No evidence of retroperitoneal hematoma.  No acute 
intra-abdominal 
abnormality to explain the patient's presentation. 

___ ___
IMPRESSION:  No evidence of deep venous thrombosis in the right 
lower extremity veins. 

___ ___
IMPRESSION: 1. No evidence of acute intracranial hemorrhage.  
Please note MRI of the brain is more sensitive for the detection 
of acute infarct. 
2. Minimal paranasal sinus disease, as described. 

___ 01:23PM BLOOD Glucose-95 UreaN-16 Creat-1.5* Na-142 
K-4.0 Cl-106 HCO3-22 AnGap-18
___ 01:23PM BLOOD Calcium-9.8 Phos-3.2 Mg-2.0

EMG ___
IMPRESSION: 
Essentially normal study. There is no electrophysiologic 
evidence for a right lumbosacral radiculopathy or plexopathy. 
The severely reduced left and absent right saphenous sensory 
responses are of uncertain clinical significance. 
  

 
Brief Hospital Course:
___ female with HTN, HLD, CKD Stage III and lumbar disc disease 
who presents with acute onset right lower extremity pain and 
weakness.  Given concern for decreased temperature of her right 
foot, Vascular Surgery was consulted in the ED who cleared her 
reporting palpable pulses bilaterally and a negative ___ for 
DVT.  She was admitted to Neurology Service after a CTA 
Abdomen/Pelvis cleared any retroperitoneal bleed.  She was 
admitted to the Neurology Floor where her pain improved with 
Tylenol and rest.  She had an EMG that was performed and was 
normal.  She was evaluated by Physical Therapy and it was 
recommended that she be discharged with home ___ and a rolling 
walker.

Transitional Issues:
Follow up with her PMD
Home ___
Neurology Outpatient Follow-up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. Simvastatin 40 mg PO QPM 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ferrous Sulfate 325 mg PO TID 
5. FLUoxetine 80 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO TID  
2.  FLUoxetine 80 mg PO DAILY  
3.  Lisinopril 5 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.  TraZODone 50 mg PO QHS:PRN insomnia  
6.  Vitamin D 1000 UNIT PO DAILY  
7.Rolling Walker
Rolling Walker
Dx: ___
Px: Good
___: 13months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Multifactorial versus Functional Gait Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Neurology Service for right lower 
extremity pain. During your admission, you were also evaluated 
by Vascular Surgery in the ED and they did not have any concerns 
from a Vascular perspective.  You had an EMG (nerve conduction 
test) which was normal.  You were evaluated by Physical Therapy 
and they recommended that you be discharged with home ___ and a 
rolling walker.

Thank you for allowing us to participate in your care,
___ Neurology
 
Followup Instructions:
___